US04235907
50 g of 3-anilino-1-benzoyl-2,5-dihydro-1H-pyrrol-4-carboxylic acid ethyl ester are heated at reflux in 500 ml of diphenyl ether for 1.5 hours, the resulting ethanol being continuously distilled off. Upon cooling, the resulting precipitate is filtered by suction, washed with ether and dried. 2-Benzoyl-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]-quinolin-9-one is obtained. M.P. 275°.

reactant | 3-anilino-1-benzoyl-2,5-dihydro-1H-pyrrol-4-carboxylic acid ethyl ester | 50 g | C(C)OC(=O)C1=C(CN(C1)C(C1=CC=CC=C1)=O)NC1=CC=CC=C1 | C20H20N2O3
solvent | diphenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-Benzoyl-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]-quinolin-9-one | C(C1=CC=CC=C1)(=O)N1CC=2NC=3C=CC=CC3C(C2C1)=O | C18H14N2O2
